US04193937
Following the general procedure I, 0.25 mol of 4,5-dichloro-2-methylaniline in 200 ml of water and 60 ml of concentrated hydrochloric acid are hydrogenated in the presence of the catalyst from Example 1 at 220° C. over the course of 30 minutes under a hydrogen pressure of 100 atmospheres gauge. 5-Chloro-2-methylaniline is obtained in a yield of 82% and a purity of 99%.

reactant | 4,5-dichloro-2-methylaniline | 0.25 mol | ClC1=CC(=C(N)C=C1Cl)C | C7H7Cl2N
solvent | water | 200 ml | O | H2O
solvent | hydrochloric acid | 60 ml | Cl | ClH
product | 5-Chloro-2-methylaniline | yield of 82% | ClC=1C=CC(=C(N)C1)C | C7H8ClN
